US09340537B2
Stage 29.1 (1-(tert-Butoxycarbonyl)-5-cyano-1H-pyrrol-2-yl)boronic acid
To a solution of 2,2,6,6-tetramethylpiperidine (0.461 mL, 2.73 mmol) in THF (10 mL) at −78° C. under an argon atmosphere was added a solution of 1.6 M n-BuLi in n-hexane (1.951 mL, 3.12 mmol). The mixture was stirred at −78° C. for 15 min and then allowed to warm to RT. The mixture was cooled to −78° C. prior and a solution of tert-butyl 2-cyano-1H-pyrrole-1-carboxylate (500 mg, 2.60 mmol) in THF (2 mL) was added. The RM was stirred at −78° C. for 30 min and then trimethyl borate (1.450 mL, 13.01 mmol) was added. The RM was allowed to reach RT and stirred overnight. Sat. aq. NH4Cl solution (10 mL) was added to the mixture and the mixture was extracted with Et2O. The combined extracts were washed with 1 M HCl (2×10 mL), brine (10 mL) then the solvent was evaporated off under reduced pressure to give a residue which was crystallized from Et2O/cyclohexane (1:3) to yield the title compound as an off-white solid (which was stored at −20° C.). UPLC-MS (Condition 3) tR=0.72 min, m/z=237.1 [M+H]+, m/z=281.1 [M+formic acid-H]−.

reactant | 2,2,6,6-tetramethylpiperidine | 2.73 mmol, 0.461 mL | CC1(NC(CCC1)(C)C)C | C9H19N
reactant | n-BuLi | 1.6 M | [Li]CCCC
reactant | n-hexane | 3.12 mmol, 1.951 mL | CCCCCC | C6H14
reactant | tert-butyl 2-cyano-1H-pyrrole-1-carboxylate | 2.60 mmol, 500 mg | C(#N)C=1N(C=CC1)C(=O)OC(C)(C)C | C10H12N2O2
reactant | trimethyl borate | 13.01 mmol, 1.450 mL | B(OC)(OC)OC | C3H9BO3
reactant | NH4Cl | 10 mL | [NH4+].[Cl-]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | (1-(tert-Butoxycarbonyl)-5-cyano-1H-pyrrol-2-yl)boronic acid | C(C)(C)(C)OC(=O)N1C(=CC=C1C#N)B(O)O | C10H13BN2O4
